US07994166B2
In a 3 neck flask equipped with a mechanical stirrer, thermocouple and addition funnel was added (R)-1-(3,4-dichlorophenyl)-2-(2-hydroxyethylamino)ethanol (370 g, 1.48 mol) followed by DCM (1.48 L). A solution of (Boc)2O (307 g, 323 mL, 1.41 mol) in 500 mL of DCM was added dropwise using an addition funnel. The reaction mixture was stirred at RT for 2 h. The mixture was washed with 1000 mL of water, twice with 1000 mL of brine, dried over MgSO4, filtered over Celite and concentrated in vacuo to afford (R)-tert-Butyl 2-(3,4-dichlorophenyl)-2-hydroxyethyl(2-hydroxyethyl)-carbamate (518 g, 100%) as a thick, foamy oil. 1H-NMR (400 MHz, DMSO) δ 7.59 (t, J=8.0 Hz, 1H), 7.51 (s, 1H), 7.27 (t, J=8 Hz, 1H), 5.74-5.70 (m, 1H), 4.76-4.70 (m, 2H), 3.49-3.24 (m, 4H), 1.26 (s, 9H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=350.3; tR=1.64 min.

reactant | (R)-1-(3,4-dichlorophenyl)-2-(2-hydroxyethylamino)ethanol | 1.48 mol, 370 g | ClC=1C=C(C=CC1Cl)[C@H](CNCCO)O | C10H13Cl2NO2
reactant | (Boc)2O | 1.41 mol, 323 mL, 307 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.48 L | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 2-(3,4-dichlorophenyl)-2-hydroxyethyl(2-hydroxyethyl)-carbamate | 518 g, 100% | ClC=1C=C(C=CC1Cl)[C@H](CN(C(OC(C)(C)C)=O)CCO)O | C15H21Cl2NO4
